US08278453B2
1-Benzoyl-4-oxo-4H-quinolizine-3-carboxylic acid
To a solution of 1-[hydroxy(phenyl)methyl]-4-oxo-4H-quinolizine-3-carboxylic acid (0.142 g, 0.508 mmol) in 3 mL CH3CN was added 1-hydroxy-1,2-benziodoxol-3(1H)-one 1-oxide (0.075 g, 0.254 mmol). The mixture was heated to 75° C. for 3 h, cooled to rt, and concentrated in vacuo. The resultant residue was subjected to purification via reverse phase HPLC to yield the title compound that gave a mass ion (ES+) of 294.2 for M+H+.

reactant | 1-[hydroxy(phenyl)methyl]-4-oxo-4H-quinolizine-3-carboxylic acid | 0.508 mmol, 0.142 g | OC(C=1C=C(C(N2C=CC=CC12)=O)C(=O)O)C1=CC=CC=C1 | C17H13NO4
reactant | 1-hydroxy-1,2-benziodoxol-3(1H)-one 1-oxide | 0.254 mmol, 0.075 g | OI1(OC(C2=C1C=CC=C2)=O)=O | C7H5IO4
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | 1-Benzoyl-4-oxo-4H-quinolizine-3-carboxylic acid | C(C1=CC=CC=C1)(=O)C=1C=C(C(N2C=CC=CC12)=O)C(=O)O | C17H11NO4
